US06093731
A solution of NaN3 (2.2 g, 33.8 mmol) in water (7.5 mL) was added dropwise over 5 min to a stirred solution of 4-bromocinnamoyl chloride (22 mmol) in acetone (22 mL) at -10° C. The heterogeneous mixture was stirred at 0° C. for 1 h and diluted with water (25 mL). The precipitate was collected by filtration and dried in vacuo over P2O5 to give 4-bromocinnamoyl azide (5.22 g, 20.7 mmol) as a golden-coloured solid.

reactant | NaN3 | 33.8 mmol, 2.2 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-bromocinnamoyl chloride | 22 mmol | BrC1=CC=C(C=CC(=O)Cl)C=C1 | C9H6BrClO
solvent | water | 7.5 mL | O | H2O
solvent | acetone | 22 mL | CC(=O)C | C3H6O
solvent | water | 25 mL | O | H2O
product | 4-bromocinnamoyl azide | 20.7 mmol, 5.22 g | BrC1=CC=C(C=CC(=O)N=[N+]=[N-])C=C1 | C9H6BrN3O
